US06399837B1
1-Ethoxy-2-n-butoxybenzene (II)
The procedure was similar to that followed in the preparation of example 8 above, except that the reaction involved 150 ml of water, 15.8 ml of 50% sodium hydroxide solution, 25.4 ml (0.2 moles) of 2-ethoxyphenol, and 21.5 ml (0.2 moles) of 1-bromobutane. This compound was labeled as example 9.

reactant | sodium hydroxide | 15.8 ml | [OH-].[Na+]
reactant | 2-ethoxyphenol | 0.2 moles, 25.4 ml | C(C)OC1=C(C=CC=C1)O | C8H10O2
reactant | 1-bromobutane | 0.2 moles, 21.5 ml | BrCCCC | C4H9Br
solvent | water | 150 ml | O | H2O
product | 1-Ethoxy-2-n-butoxybenzene | C(C)OC1=C(C=CC=C1)OCCCC | C12H18O2
